US07704995B2
Methyl 3-amino-6-(3-chloromethylphenyl)-N-methylpyrazine-2-carboxylate (18 mg, 0.06 mmol) and silver oxide (15 mg, 0.06 mmol) were added to benzyl alcohol (2 mL) and the mixture was heated to 110° C. over 15 hours. The benzyl alcohol was removed in vacuo and the residue purified by silica gel flash chromatography using ethyl acetate:hexanes (1:1) as eluent. The pure fractions were combined and concentrated then dried ill vacuo to give methyl 3-amino-6-(3-{[(phenylmethyl)oxy]methyl}phenyl)pyrazine-2-carboxylate (5.8 mg, 28% yield) as a yellow solid: MS (EI) for C20H20N3O3: 350 (MH+).

reactant | Methyl 3-amino-6-(3-chloromethylphenyl)-N-methylpyrazine-2-carboxylate | 0.06 mmol, 18 mg | NC=1C(N(C(=CN1)C1=CC(=CC=C1)CCl)C)C(=O)OC | C14H16ClN3O2
reactant | benzyl alcohol | 2 mL | C(C1=CC=CC=C1)O | C7H8O
catalyst | silver oxide | 0.06 mmol, 15 mg | [Ag]=O
product | methyl 3-amino-6-(3-{[(phenylmethyl)oxy]methyl}phenyl)pyrazine-2-carboxylate | 5.8 mg, 28% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)COCC1=CC=CC=C1)C(=O)OC | C20H19N3O3
